US04753936
(b) 3-Aminocrotonic acid 4-cyclohexylpiperazide
0.1 mol of crude 3-oxo-butyric acid 4-cyclohexylpiperazide is dissolved in 150 ml of tetrahydrofuran and, under reflux, after addition of 0.5 g of p-toluenesulphonic acid, ammonia is passed in for 4 hours. The mixture is allowed to stand at room temperature overnight, the solvent is removed by distillation in vacuo, and the residue is crystallized from toluene/petroleum ether.

reactant | 3-oxo-butyric acid 4-cyclohexylpiperazide | 0.1 mol | C1(CCCCC1)N1CCN(CC1)C(CC(C)=O)=O | C14H24N2O2
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-Aminocrotonic acid 4-cyclohexylpiperazide | C1(CCCCC1)N1CCN(CC1)C(\C=C(\C)/N)=O | C14H25N3O
